US09161948B2
Tert-butyl 4-(2,2,2-trifluoroacetamido)piperidine-1-carboxylate
To a suspension of tert-butyl 4-aminopiperidine-1-carboxylate (48.7 g, 0.243 mol) and DIPEA (130 mL, 0.749 mol) in DCM (250 mL) was added ethyl trifluoroacetate (35.6 mL, 0.300 mol) dropwise while stirring. After 20 hours, the solution was washed with citric acid solution (200 mL×3, 10% w/v aq) and sodium bicarbonate solution (200 mL×3, conc aq), dried (MgSO4), and filtered through silica (24 g). The silica was washed with DCM and the combined eluant was partially concentrated (100 mL), and used directly in the next step. APCI/MS calcd. for C12H19F3N2O3 296.1. found m/z=294.9 (M−1).

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 0.243 mol, 48.7 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 0.749 mol, 130 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl trifluoroacetate | 0.300 mol, 35.6 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 4-(2,2,2-trifluoroacetamido)piperidine-1-carboxylate | FC(C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
